US05589477
4-(4-methoxyphenyl)-2-methyl-6-(2-piperidinoethoxy)pyrimidine dihydrochloride
1.17 g of 4-chloro-6-(4-methoxyphenyl)-2-methylpyrimidine and 0.65 g of 2-piperidinoethanol were dissolved in 10 ml of dried tetrahydrofuran. After the addition of 60% sodium hydride 0.2 g, the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into ice-water, and then was extracted with ethyl acetate. The extract was washed with water and was dried with anhydrous magnesium sulfate, and then this was evaporated in vacuo. The residue was purified with column chromatography with silica gel(Wako gel c-200 150 g, elution with chloroform and then chloroform: methanol=99:1), resulting 1.3 g of oily substance. This was dissolved in 10 ml of ethanol, 3 ml of 20% ethanol hydrochloride was added and evaporated in vacuo. Ether was added to the residue to crystallize. Whereby 1.32 g of crystals were obtained. These were recrystallized with isopropanol, resulting to obtain 0.83 g of crystals. Melting point is 165° to 167° C.

reactant | 4-chloro-6-(4-methoxyphenyl)-2-methylpyrimidine | 1.17 g | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)OC)C | C12H11ClN2O
reactant | 2-piperidinoethanol | 0.65 g | N1(CCCCC1)CCO | C7H15NO
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | ethanol hydrochloride | 3 ml | Cl.C(C)O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4-methoxyphenyl)-2-methyl-6-(2-piperidinoethoxy)pyrimidine dihydrochloride | 1.32 g | Cl.Cl.COC1=CC=C(C=C1)C1=NC(=NC(=C1)OCCN1CCCCC1)C | InChI=1S/C19H25N3O2.2ClH/c1-15-20-18(16-6-8-17(23-2)9-7-16)14-19(21-15)24-13-12-22-10-4-3-5-11-22;;/h6-9,14H,3-5,10-13H2,1-2H3;2*1H
